US04866091
A mixture of 2'-(2,4-difluorophenoxy)-4'-formylethanesulfonanilide (2 g) and α-triphenylphosphoranylidene-γ-butyrolactone (2.2 g) in dimethyl sulfoxide (10 ml) was stirred at 80° C. for 6 hours. The mixture was dissolved in ethyl acetate, and the resulting mixture was washed with water, dried, and concentrated to dryness. The residue was purified by column chromatography on acetate (1:1) to give a powder of α-[3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzylidene]-γ-butyrolactone (1.7 g).

reactant | 2'-(2,4-difluorophenoxy)-4'-formylethanesulfonanilide | 2 g | FC1=C(OC2=C(NS(=O)(=O)CC)C=CC(=C2)C=O)C=CC(=C1)F | C15H13F2NO4S
reactant | α-triphenylphosphoranylidene-γ-butyrolactone | 2.2 g | C1(=CC=CC=C1)P(=C1C(=O)OCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19O2P
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-[3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzylidene]-γ-butyrolactone | 1.7 g | FC1=C(OC=2C=C(C=C3C(=O)OCC3)C=CC2NS(=O)(=O)C)C=CC(=C1)F | C18H15F2NO5S
